US07888366B2
To a solution of 4-methoxybenzyl alcohol (1.0 g, 7.2 mmol) in dimethylformamide was added to a cooled (0° C.) slurry of sodium hydride (0.32 g, 7.91 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. Again, cooled (0° C.), then a solution of 2,6-difluorobenzonitrile (1.0 g, 7.2 mmol) in dimethylfomamide was added, stirred overnight at room temperature. The reaction mixture was poured on crushed ice-water, stirred, filtered and dried to afford 1.58 g of 2-fluoro-5-(4-methoxybenzyloxy)benzonitrile.

reactant | 4-methoxybenzyl alcohol | 7.2 mmol, 1.0 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | sodium hydride | 7.91 mmol, 0.32 g | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 7.2 mmol, 1.0 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-5-(4-methoxybenzyloxy)benzonitrile | 1.58 g | FC1=C(C#N)C=C(C=C1)OCC1=CC=C(C=C1)OC | C15H12FNO2
